US07482356B2
Preparation of 3-hydroxy-3-(2-methylsulfanyl-pyrimidin-4-yl)-propionic acid tert-butyl ester (18):
To a cold (0° C.) solution of diisopropylamine (5.7 mL, 40.5 mmol) in THF (130 mL) is added dropwise n-butyllithium (16.2 mL of a 2.5 M solution in hexanes, 40.5 mmol). The mixture is stirred for 45 min at 0° C., then the solution is cooled to −78° C. tert-Butyl acetate (5.5 mL, 40.5 mmol) is added dropwise to the reaction mixture. After stirring 40 min at −78° C., a solution of 2-methylsulfanyl-pyrimidine-4-carbaldehyde (5.0 g, 32.4 mmol) is added dropwise. After 30 min at −78° C., the solution is poured into aqueous saturated NH4Cl. The aqueous phase is extracted with EtOAc. The organic phase is dried (MgSO4), filtered and concentrated in vacuo. The crude residue is purified over silica (5% EtOAc/hexanes, followed by 20% EtOAc/hexanes) to afford 7.2 g (82% yield) of the desired product. 1H NMR (300 MHz, CDCl3) δ 8.52 (d, J=5.1 Hz, 1H), 7.22 (d, J=5.1 Hz, 1H), 5.00 (dd, J=8.4, 3.6 Hz, 1H), 2.93 (dd, J=16.5, 3.6 Hz, 1H), 2.70 (dd, J=16.5, 7.8 Hz, 1H), 2.58 (s, 3H), 1.46 (s, 9H); ESI+ MS: m/z (rel intensity) 271.1 (85, M++H).

reactant | diisopropylamine | 40.5 mmol, 5.7 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | tert-Butyl acetate | 40.5 mmol, 5.5 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | 2-methylsulfanyl-pyrimidine-4-carbaldehyde | 32.4 mmol, 5.0 g | CSC1=NC=CC(=N1)C=O | C6H6N2OS
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 130 mL | C1CCOC1 | C4H8O
product | 3-hydroxy-3-(2-methylsulfanyl-pyrimidin-4-yl)-propionic acid tert-butyl ester | 7.2 g, 82% yield | C(C)(C)(C)OC(CC(C1=NC(=NC=C1)SC)O)=O | C12H18N2O3S
